US07220856B2
Preparation of 4-(2-amino-7-chloro-4-quinolinyl)-N-[(1S)-2-[(4-fluorophenyl)amino]-1-methyl-2-oxoethyl]-1-piperazinecarboxamide:
To a solution of (2S)-2-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-propanoic acid (˜30 mg), 4-fluoroanaline (0.03 mL, 0.32 mmol), Et3N (0.14 mL, 0.35 mmol) in DMF (2 mL) was added HATU (133 mg, 0.35 mmol) at rt. After stirring at rt overnight, the reaction mixture was poured into ice-water. The crude solid was obtained by filtration and re-dissolved in CH2Cl2-MeOH, dried over Na2SO4. Concentration in vacuo followed by preparative TLC(CH2Cl2-MeOH-Et3N, 9:1:1%) afforded the title product as a light yellow powder. LC-MS: 471 (M++1). 1H NMR (DMSO-d6): δ 1.30 (d, 3H), 3.00 (br.s, 4H), 3.58 (m, 4H), 4.28 (m, 1H), 6.26 (s, 1H), 6.60 (br.s, 2H), 6.30 (d, 1H), 7.16 (m, 3H), 7.40 (d, 1H), 7.63 (dd, 2H), 7.75 (d, 1H).

reactant | (2S)-2-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-propanoic acid | ˜30 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@H](C(=O)O)C)Cl | C17H20ClN5O3
reactant | Et3N | 0.35 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | HATU | 0.35 mmol, 133 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(2-amino-7-chloro-4-quinolinyl)-N-[(1S)-2-[(4-fluorophenyl)amino]-1-methyl-2-oxoethyl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@H](C(=O)NC1=CC=C(C=C1)F)C)Cl | C23H24ClFN6O2
